US05057525
A mixture of 5 parts of cis-2-[3-hydroxy-1-(phenylmethyl)-4-piperidinylaminocarbonyl]phenol acetate (ester) and 30 parts of sodium hydroxide solution 1N was stirred and heated for four hours at 60° C. The reaction mixture was cooled to room temperature and neutralized with a hydrochloric acid solution 1N. The product was extracted with 1,1'-oxybisethane. The extract was dried, filtered and evaporated. The residue was purified by columnchromatography over silica gel using a mixture of trichloromethane and methanol (85:15 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue solidified on triturating in 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.21 parts (27%) of cis-2-hydroxy-N-[3-hydroxy-1-(phenylmethyl)-4-piperidinyl]benzamide; mp. 127.1° C. (compound 235).

reactant | cis-2-[3-hydroxy-1-(phenylmethyl)-4-piperidinylaminocarbonyl]phenol acetate | C(C)(=O)OC1=C(C=CC=C1)C(=O)N[C@@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)O | C21H24N2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
product | cis-2-hydroxy-N-[3-hydroxy-1-(phenylmethyl)-4-piperidinyl]benzamide | 27% | OC1=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC2=CC=CC=C2)O)C=CC=C1 | C19H22N2O3
